US07842694B2
5-Bromo-2-(pyrrolidin-1-ylcarbonyl)pyridine
Oxalyl chloride (0.83 mL; 9.3 mmol) and DMF (1 drop) were added to a solution of 5-bromoisonicotinic acid (1.57 g; 7.75 mmol) and 4M hydrogen chloride in dioxan (1.93 mL; 7.75 mmol) in DCM (50 mL). The mixture was stirred at RT for 18 hours, the DCM removed in vacuo and the residue azeotroped with toluene (2×15 mL). The residue was and added to a solution of pyrrolidine (0.78 mL; 9.3 mmol) and triethylamine (2.6 mL; 18.6 mmol) in DCM (40 mL) and the mixture stirred at RT for 6 hours. The DCM was removed in vacuo, the residue partitioned between water (75 mL) and ethyl acetate (100 mL), the organic layer washed with brine, dried (MgSO4) and evaporated to a residue which was chromatographed on silica, eluting with 50% ethyl acetate in iso hexane, to give the desired material (1.40 g). 1H NMR δ (CDCl3): 1.85 (m, 4H), 3.6 (m, 2H), 3.7 (s, 3H), 7.7 (d, 1H), 7.85 (s, 1H), 8.55 (s, 1H); m/z 257 (M+H)+.

reactant | Oxalyl chloride | 9.3 mmol, 0.83 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-bromoisonicotinic acid | 7.75 mmol, 1.57 g | BrC1=CN=CC=C1C(=O)O | C6H4BrNO2
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | dioxan | 7.75 mmol, 1.93 mL | O1CCOCC1 | C4H8O2
reactant | pyrrolidine | 9.3 mmol, 0.78 mL | N1CCCC1 | C4H9N
reactant | triethylamine | 18.6 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-2-(pyrrolidin-1-ylcarbonyl)pyridine | 1.40 g | BrC=1C=CC(=NC1)C(=O)N1CCCC1 | C10H11BrN2O
